reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@:2]([N:3]=[O:4])([C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],61.443642046791396
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C@@:5]1([H:14])[O:2][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],85.48636190220542
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C-:1]([O+:2]=[C:3]1[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])([H:7])[H:8],68.9703011738622
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([N:4]([C:5][O:6][H:11])[H:10])([H:8])[H:9])[H:7],73.330166358659
[C:1]1([H:8])([H:9])[N:2]([H:11])[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[C:6][N:7]1[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],45.78045340565771
[C:1]([O:2]/[C:3](=[N:4]/[N:5]([H:11])[H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],73.21520358070308
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C-:4]=[O+:5][C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],54.8065814656164
[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](\[C:3]([H:11])([H:12])[H:13])(=[N:4]/[C:5](=[O:6])[H:15])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],70.99931420224158
[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C@:2]12[C:3][C@@:4]1([C:6]([H:10])([H:11])[H:12])[O:5]2)([H:7])([H:8])[H:9],68.9244005652005
[C:5](#[N:6])[H:10].[N:1](=[C:2](/[O+:3]=[C-:4][H:9])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],15.696313421860793
[O-:1][c:2]1[n:3][n:4]([H:7])[n:5][n+:6]1[H:8]>>[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8],48.09705635056769
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([N:5]([C:4][H:10])[H:12])([H:9])[H:11])([H:7])[H:8])[H:6],71.938356876939
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[N:5]([H:15])[C@@:6]1([O:7][H:10])[H:16],86.5273690163594
[C:1]([C:2](=[O:3])[N+:5]#[C-:4])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8],30.059108670373895
[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]([C:5]#[C:6][H:10])[H:9])[H:8])[H:7],75.2280390695394
[C:1]([C@@:2]1([O:3][H:12])[C@@:4]([C:6](=[O:7])[H:13])([H:11])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],38.8414863134735
[O:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:7])[H:8])[H:6].[O:5]([H:9])[H:13]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],58.761833773816136
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3](/[C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])[H:14])([H:12])[H:13])[H:11])([H:8])[H:10].[H:9][H:16],65.1771839537142
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6]#[N:7])[H:14]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],48.905491959232606
[C:1](=[C:2]([C:6]#[C:7][H:15])[H:11])([H:8])[H:9].[C:3](=[C:4]=[C:5]([H:10])[H:14])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],38.547581084668096
[C:1]([C:2]1=[C:5]=[N:6][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],16.263229955405407
[C:1]([C@:2]1([H:11])[C:4](=[O:5])/[C:6]1=[C:7](/[O:3][H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],67.89744932978488
[C-:5]#[O+:6].[C:1]([C:2]([C:3](=[O:4])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],42.233722614023606
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[O:6][C:5]([H:12])=[C:4]1[H:11])[H:7],52.4500388945831
[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([O:4][H:9])[O:5][C:6]([H:12])([H:13])[H:14],89.6375319819433
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:3]([H:10])=[C:4]1[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9],56.0544926707888
